US04001426
A mixture of 10.5 g. (0.05 mol.) of 2-p-hydroxyphenylbenzofuran and 47 g. (0.25 mol.) of 1,2-dibromoethane in 200 ml. of 3-pentanone containing 46 g. (0.3 mol.) of potassium carbonate was heated at 100° for 12 hours. The mixture was filtered while hot and the solid remaining was washed with hot acetone. The combined filtrate and washings were concentrated to give 2-[4'-(2-bromoethoxy)phenyl]benzofuran.

reactant | 2-p-hydroxyphenylbenzofuran | 0.05 mol | OC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O2
reactant | 1,2-dibromoethane | 0.25 mol | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.3 mol | C([O-])([O-])=O.[K+].[K+]
solvent | 3-pentanone | 46 g | CCC(CC)=O | C5H10O
product | 2-[4'-(2-bromoethoxy)phenyl]benzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C16H13BrO2
